** sch_path: /home/ttuser/babys-first-adc/xschem/track_and_hold/hold_testbench.sch
**.subckt hold_testbench out
*.opin out
VDD_src VDD GND 3.3
VSS_src VSS GND 0
V4 in VSS 3
XM1 VDD out net1 VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R1 net1 VSS 1 m=1
Vclk TRK VSS 0 ac 1 0 pulse(3.3 0 0 0.1ns 0.1ns 50ns 100ns)
Vclk1 HLD VSS 0 ac 1 0 pulse(0 3.3 0 0.1ns 0.1ns 50ns 100ns)
x2 HLD TRK VDD VSS out in track_and_hold_parax
**** begin user architecture code

** opencircuitdesign pdks install
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice ss





.control
  let v_start = 0
  let v_stop  = 3.3
  let v_step  = 0.1
  let n_points = floor((v_stop - v_start) / v_step) + 1

  let index = 0

  * Initialize vectors in the 'const' plot
  let in_vec = v_start + (v_stop - v_start) * vector(n_points) / (n_points - 1)
  let diff_vec = vector($&n_points)
  let late_diff_vec = vector($&n_points)

  set temp=27

  while $&index < $&n_points
    destroy all

    alter V4 = in_vec[$&index]
    tran 0.1n 150n

    meas tran v_prehold find v(out) at=95n
    meas tran v_earlyhold find v(out) at=105n
    meas tran v_latehold find v(out) at=145n

    let d_val = v_earlyhold - v_prehold
    let late_d_val = v_latehold - v_prehold
    let const.diff_vec[index] = d_val
    let const.late_diff_vec[index] = late_d_val

    let index = index + 1
  end

  let v_tracked = const.in_vec
  let hold_delta = const.diff_vec
  let late_hold_delta = const.late_diff_vec

  setscale v_tracked hold_delta
  setscale v_tracked late_hold_delta
  settype voltage v_tracked hold_delta late_hold_delta
  plot hold_delta late_hold_delta vs v_tracked
  let v = v_tracked[0]
  let d = hold_delta[0] * 1000
  let ld = late_hold_delta[0] * 1000
  echo "$&d mV \@ $&v V ($&ld mV after 45ns)"
  let v = v_tracked[$&n_points - 1]
  let d = hold_delta[$&n_points - 1] * 1000
  let ld = late_hold_delta[$&n_points - 1] * 1000
  echo "$&d mV \@ $&v V ($&ld mV after 45ns)"
  let m = mean(hold_delta)*1000
  let lm = mean(late_hold_delta)*1000
  echo "avg error: $&m mV ($&lm mV after 45 ns)"
.endc



**** end user architecture code
**.ends

* expanding   symbol:  track_and_hold.sym # of pins=6
** sym_path: /home/ttuser/babys-first-adc/xschem/track_and_hold/track_and_hold.sym
** sch_path: /home/ttuser/babys-first-adc/xschem/track_and_hold/track_and_hold.sch
.subckt track_and_hold HLD TRK VDD VSS out in
*.iopin VSS
*.iopin VDD
*.ipin in
*.opin out
*.iopin HLD
*.iopin TRK
XC1 out VSS sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XM1 out X in VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1p out Xp in VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1.21 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 HLD VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 P Y X P sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 in X Q VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 Q HLD VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3p Qp Xp in VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 P X VDD P sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XCb P Q sky130_fd_pr__cap_mim_m3_1 W=18 L=18 MF=1 m=1
XM8 X VDD net1 VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMb Y TRK VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMa Y TRK Q VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMc Q X Y VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XCbp Pp Qp sky130_fd_pr__cap_mim_m3_1 W=18 L=18 MF=1 m=1
XM6p VDD TRK Qp VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5p VSS Xp Pp Pp sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2p Xp Yp Pp Pp sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMcp Yp Xp Qp VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMap Qp HLD Yp VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMbp VSS HLD Yp VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8p net2 VSS Xp VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4p VDD TRK net2 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  track_and_hold_parax.sym # of pins=6
** sym_path: /home/ttuser/babys-first-adc/xschem/track_and_hold/track_and_hold.sym
.include /home/ttuser/babys-first-adc/mag/track_and_hold.sim.spice
.GLOBAL GND
.end
